US07872139B2
1,1-Dicyclohexyl-3-[5-(4-phenylmethanesulfonyl-piperazin-1-ylmethyl)-thiazol-2-yl]-urea
Prepared as described in general procedure (Q) using 1,1-dicyclohexyl-3-(5-piperazin-1-ylmethyl-thiazol-2-yl)-urea hydrochloride (26 mg, 0.05 mmol), DIEA (26 μL, 0.15 mmol) and alpha-toluenesulfonyl chloride (20 mg, 0.10 mmol) to afford 8 mg (29%) of the desired product after purification.

reactant | 1,1-dicyclohexyl-3-(5-piperazin-1-ylmethyl-thiazol-2-yl)-urea hydrochloride | 0.05 mmol, 26 mg | Cl.C1(CCCCC1)N(C(=O)NC=1SC(=CN1)CN1CCNCC1)C1CCCCC1
reactant | DIEA | 0.15 mmol, 26 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | alpha-toluenesulfonyl chloride | 0.10 mmol, 20 mg | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
product | 1,1-Dicyclohexyl-3-[5-(4-phenylmethanesulfonyl-piperazin-1-ylmethyl)-thiazol-2-yl]-urea | 8 mg, 29% | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)CN1CCN(CC1)S(=O)(=O)CC1=CC=CC=C1)C1CCCCC1 | C28H41N5O3S2
